US06087371
1,6-Dimethyl-8β-[5-(5-bromo-pyridin-3-yl) -1,3,4-thiadiazol-5-yl]-10α-methoxy-ergoline
Operating as in Example 2, but employing 6-methyl-8β-[5-(5-bromo-pyridin-3-yl)-1,3,4-thiadiazol-5-yl]-10α-methoxy-ergoline instead 6-methyl-8β-methy-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline, the title compound was obtained in 35% yield, m.p.131-137° C.

reactant | 6-methyl-8β-[5-(5-bromo-pyridin-3-yl)-1,3,4-thiadiazol-5-yl]-10α-methoxy-ergoline | CN1C[C@@H](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OC)C3(N=NCS3)C=3C=NC=C(C3)Br | C23H24BrN5OS
reactant | 6-methyl-8β-methy-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline | CN1C[C@@](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OC)(C)C3=NOC(=N3)C=3C=NC=C(C3)Br | C24H24BrN5O2
product | 1,6-Dimethyl-8β-[5-(5-bromo-pyridin-3-yl) -1,3,4-thiadiazol-5-yl]-10α-methoxy-ergoline | 35% yield | CN1C=C2C[C@H]3N(C[C@@H](C[C@@]3(C=3C=CC=C1C32)OC)C3(N=NCS3)C=3C=NC=C(C3)Br)C | C24H26BrN5OS
